US08877782B2
6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 176, 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester (70 mg, 0.2 mmol) was converted, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (69 mg, 82%) which was obtained as a white foam. MS: m/e=411.4 [M+H]+.

reactant | 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester | 0.2 mmol, 70 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C18H16FN3O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-(tetrahydro-pyran-4-yl)-nicotinamide | 69 mg, 82% | FC1=CC=C(C=C1)C1=NOC(=C1CNC1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C22H23FN4O3
